### PR TITLE
feat: surreal gaps

### PR DESCRIPTION
**Pull request by plp127**
Set up basic theory of surreal gaps and left and right sections of games

### CODE REVIEW

**Review by tristan-f-r — CHANGES_REQUESTED** [review]
Preliminary note: while this codifies dedekind cuts with arbitrary Surreals, the 'surreal gaps' notion above is misleading: you would only be able to find gaps inside the Surreals if `Cut` took a proper class of Surreals.

Is this dedekind cut notion meant to formalize something that isn't surreal gaps? Or is it meant to formalize some other alternative construction of the Surreals? (One of my personal favorite ways of thinking about constructing the surreals is through this currently formalized notion of dedekind cuts over sets)

**Comment by plp127** [comment]
> you would only be able to find gaps inside the Surreals if `Cut` took a proper class of Surreals

But it does??? Can you elaborate?

**Comment by plp127** [comment]
> Is this dedekind cut notion meant to formalize something that isn't surreal gaps? Or is it meant to formalize some other alternative construction of the Surreals?

These are surreal gaps; for example `⊤` is the On gap and `Cut.leftSurreal 0` is the 1 / On gap

File: CombinatorialGames/Surreal/Dedekind.lean [hunk 1]
```diff
@@ -0,0 +1,450 @@
...
+structure Cut where
+  /--
+  The lower set of a Dedekind section.
+  -/
+  left : Set Surreal
+  /--
+  The upper set of a Dedekind section.
+  -/
+  right : Set Surreal
+  left_lf_right' : ∀ l ∈ left, ∀ r ∈ right, l ⧏ r
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Dedekind.lean:32]: Why not simply write `l < r`? Surreals are a total order, after all.

File: CombinatorialGames/Surreal/Dedekind.lean [hunk 2]
```diff
@@ -0,0 +1,450 @@
...
+  codisjoint' : Codisjoint left right
+
+namespace Cut
+
+noncomputable instance : DecidableEq Cut := Classical.decEq Cut
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Dedekind.lean:37]: What's the point of having a noncomputable `DecidableEq` instance?

File: CombinatorialGames/Surreal/Dedekind.lean [hunk 3]
```diff
@@ -0,0 +1,450 @@
...
+  simpa using codisjoint_iff.1 c.codisjoint
+
+@[simp]
+theorem right_union_left {c : Cut} : c.right ∪ c.left = univ := by
+  simpa using codisjoint_iff.1 c.codisjoint.symm
+
+theorem disjoint {c : Cut} : Disjoint c.left c.right := by
+  rw [disjoint_iff_inter_eq_empty, eq_empty_iff_forall_notMem]
+  intro x hx
+  exact c.left_lf_right hx.left hx.right le_rfl
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Dedekind.lean:58]: If you want to:
```suggestion
  exact fun x hx ↦ c.left_lf_right hx.left hx.right le_rfl
```

File: CombinatorialGames/Surreal/Dedekind.lean [hunk 4]
```diff
@@ -0,0 +1,450 @@
...
+  rw [le_iff_right, ← compl_subset_compl, compl_right, compl_right]
+
+instance : LT Cut where
+  lt a b := (b.left ∩ a.right).Nonempty
+
+noncomputable instance : DecidableLT Cut := Classical.decRel LT.lt
+
+theorem lt_iff_nonempty {a b : Cut} : a < b ↔ (b.left ∩ a.right).Nonempty := Iff.rfl
+
+protected theorem not_le {a b : Cut} : ¬a ≤ b ↔ b < a := by
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Dedekind.lean:116]: This and `le_of_lt` should be private, or better yet, inlined into the order instances.

File: CombinatorialGames/Surreal/Dedekind.lean [hunk 5]
```diff
@@ -0,0 +1,450 @@
...
+
+theorem le_iff_left {a b : Cut} : a ≤ b ↔ a.left ⊆ b.left := by
+  rw [le_iff_right, ← compl_subset_compl, compl_right, compl_right]
+
+instance : LT Cut where
+  lt a b := (b.left ∩ a.right).Nonempty
+
+noncomputable instance : DecidableLT Cut := Classical.decRel LT.lt
+
+theorem lt_iff_nonempty {a b : Cut} : a < b ↔ (b.left ∩ a.right).Nonempty := Iff.rfl
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Dedekind.lean:114]:
```suggestion
theorem lt_iff_nonempty {a b : Cut} : a < b ↔ (b.left ∩ a.right).Nonempty := .rfl
```

File: CombinatorialGames/Surreal/Dedekind.lean [hunk 6]
```diff
@@ -0,0 +1,450 @@
...
+  simp_rw [le_iff_left, not_subset, ← mem_compl_iff]
+  rw [← inter_nonempty_iff_exists_left, compl_left, lt_iff_nonempty]
+
+protected theorem le_of_lt {a b : Cut} (h : a < b) : a ≤ b := by
+  rw [lt_iff_nonempty] at h
+  rw [le_iff_left]
+  obtain ⟨x, hx⟩ := h
+  intro y hy
+  refine b.isLowerSet_left ?_ hx.left
+  exact le_of_not_ge (a.left_lf_right hy hx.right)
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Dedekind.lean:126]: You can merge this into a single line if you want
```suggestion
  exact b.isLowerSet_left (fun y hy ↦ le_of_not_ge (a.left_lf_right hy hx.right)) hx.left
```

File: CombinatorialGames/Surreal/Dedekind.lean [hunk 7]
```diff
@@ -0,0 +1,450 @@
...
+    left_lf_right' := by simp
+    codisjoint' _ h _ := by simpa using h
+  }
+  le_top c := ⟨subset_univ c.left, empty_subset c.right⟩
+  bot := {
+    left := ∅
+    right := univ
+    left_lf_right' := by simp
+    codisjoint' _ _ h := by simpa using h
+  }
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Dedekind.lean:152]:
```suggestion
  top := ⟨univ, ∅, by simp, by simpa using h⟩
  le_top c := ⟨subset_univ c.left, empty_subset c.right⟩
  bot := ⟨∅, univ, by simp, fun _ _ h ↦ by simpa using h⟩
```

**Review by vihdzp — COMMENTED** [review]
Some initial remarks.

A note about this whole PR: every preorder can be embedded in a complete lattice via the Dedekind-MacNeille completion. I think it'd be better to develop this and PR it to Mathlib, rather than just doing this for surreal numbers.

**Comment by vihdzp** [comment]
Oh, it turns out we already do have the Dedekind completion in Mathlib! You can write it as [`Concept`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Concept.html#Concept)`Surreal Surreal (· ≤ ·)`.

File: CombinatorialGames/Surreal/Dedekind.lean (hunk 2 above)
Comment (plp127) [reply CombinatorialGames/Surreal/Dedekind.lean:37]: Same reason we have `Real.decidableEq` in mathlib (and same for the le and lt instances)

File: CombinatorialGames/Surreal/Dedekind.lean (hunk 7 above)
Comment (plp127) [reply CombinatorialGames/Surreal/Dedekind.lean:152]: You seem to have dropped a binder somewhere, `h` is unbound now.

File: CombinatorialGames/Surreal/Dedekind.lean (hunk 1 above)
Comment (plp127) [reply CombinatorialGames/Surreal/Dedekind.lean:32]: I was considering what this should be for non-total orders, and I thought I should make it this to mimic the case for a general preorder.

File: CombinatorialGames/Surreal/Dedekind.lean (hunk 4 above)
Comment (plp127) [reply CombinatorialGames/Surreal/Dedekind.lean:116]: Why? It's not like `Nat.le_of_lt` is private. I've decided to not inline these because I use them twice.

**Comment by plp127** [comment]
I think I should clarify: what I was looking for with my definition was not a way to embed an order into a complete lattice, but a way to characterize the *cuts* inside that order, where a cut is a partition of the order into a lower set and an upper set. I think that's what I accomplished here.

**Comment by vihdzp** [comment]
Oh, I should write down what we discussed on DMs. It turns out this *is* the correct notion of gaps; that is, surreal gaps are not the same as the Dedekind completion, and every surreal actually corresponds to two gaps instead of one. Still, it's possible to simplify this treatment by defining `Gap = Concept Surreal Surreal (· < ·)` (using the `<` relation instead of the `≤` relation, which would give the Dedekind completion).

File: CombinatorialGames/Surreal/Dedekind.lean (hunk 4 above)
Comment (vihdzp) [reply CombinatorialGames/Surreal/Dedekind.lean:116]: `Nat.le_of_lt` isn't private because a lot of basic theorems on naturals are developed before the corresponding theorems on orders are! Every other type shouldn't have to do this.

**Comment by plp127** [comment]
I'll close this now since #125 got merged.
